US08686048B2
Intermediate 76: 3′-(ethylthio)-2,6-difluorobiphenyl-4-amine
The title compound (500 mg) was prepared from 4-bromo-3,5-difluoroaniline (300 mg, 1.74 mmol) and 3-(ethylthio)phenylboronic acid (340 mg, 1.86 mmol) as a yellow liquid.

reactant | 4-bromo-3,5-difluoroaniline | 1.74 mmol, 300 mg | BrC1=C(C=C(N)C=C1F)F | C6H4BrF2N
reactant | 3-(ethylthio)phenylboronic acid | 1.86 mmol, 340 mg | C(C)SC=1C=C(C=CC1)B(O)O | C8H11BO2S
product | 3′-(ethylthio)-2,6-difluorobiphenyl-4-amine | 500 mg | C(C)SC=1C=C(C=CC1)C1=C(C=C(C=C1F)N)F | C14H13F2NS
